US09422267B2
To a solution of (S)—N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide (250 mg, 0.55 mmol) in 1,4-dioxane (5 mL) was added aqueous ammonia (5 mL) and the reaction mixture was allowed to reflux in steel bomb at 130° C. for 18 h. The reaction mixture was concentrated under vacuum to obtain an oily crude product which was purified by reverse phase HPLC to afford 8 mg of (S)—N-(6-aminopyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide. 1H NMR (400 MHz, CD3OD, freebase) δ (ppm): 1.20 (d, 6H), 2.00-2.20 (m, 4H), 2.75-2.95 (m, 5H), 3.50-3.90 (m, 4H), 4.90-4.98 (m, 1H), 6.40 (s, 1H), 6.50 (d, 1H), 7.40 (s, 1H), 7.90 (s, 1H). The other enantiomer is prepared using the chiral (R) starting material.

reactant | (S)—N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide | 0.55 mmol, 250 mg | FC1=CC=C(C=N1)NC(=O)[C@H]1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C | C23H27FN8O
reactant | ammonia | 5 mL | N | H3N
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (S)—N-(6-aminopyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxamide | 8 mg | NC1=CC=C(C=N1)NC(=O)[C@H]1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C | C23H29N9O
